US07683067B2
N-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-N-ethylethanamine
2-Chloro-5-chloromethylpyridine 1-oxide (1.78 g, 10.0 mmol; described in: Tilley, J. W. et al, J. Heterocyclic Chem. 1979, 16, 333), diethyl amine (1.46 g, 20.0 mmol), and potassium carbonate (1.38 g, 10.0 mmol) were mixed in acetonitrile (50 mL) at room temperature. The mixture was stirred for 16 h, the solvent was removed in vacuo, and the residue was purified on a silica gel column using chloroform/methanol, (9:1), as the eluent to give 1.90 g (88% yield) of the title compound as a pale orange oil: MS (EI) m/z 215 and 217 (M++1).

reactant | 2-Chloro-5-chloromethylpyridine 1-oxide | 10.0 mmol, 1.78 g | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
reactant | diethyl amine | 20.0 mmol, 1.46 g | C(C)NCC | C4H11N
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-N-ethylethanamine | 1.90 g, 88% yield | ClC1=CC=C(C=[N+]1[O-])CN(CC)CC | C10H15ClN2O
